US05225513
N-Methyl-(2-piperidyl)methyl N-Methylpipecolinate
A mixture of 85.6 g (0.5 mole) of ethyl 1-methylpipecolinate, 64.6 g (0.5 mole) of 1-methyl-2piperidinemethanol and 1.1 g dibutyltin oxide was heated at 130° C. for three hours and then gradually heated to 200° C. When the amount of ethanol collected indicated the reaction was essentially complete the liquid product, N-methyl-(2-piperidyl)methyl N-methylpipecolinate, was distilled at 0.25 mm Hg pressure at about 130° C. The nuclear magnetic resonance and infrared spectra of the product were consistent with the structural assignment.

reactant | ethyl 1-methylpipecolinate | 0.5 mole, 85.6 g | CN1C(C(=O)OCC)CCCC1 | C9H17NO2
reactant | 1-methyl-2piperidinemethanol | 0.5 mole, 64.6 g | CN1C(CCCC1)CO | C7H15NO
reactant | dibutyltin oxide | 1.1 g | C(CCC)[Sn](CCCC)=O
product | N-Methyl-(2-piperidyl)methyl N-Methylpipecolinate | CN1C(C(=O)OCC2N(CCCC2)C)CCCC1 | C14H26N2O2
